US08455488B2
Synthesis of 2-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxo-3-phenylpropan-2-ylamino)-2-oxoethyl)-N-ethyl-2-methylhydrazinecarboxamide (Compound II-135)
According to the procedure described in the synthesis method of Compound II-130, 2-(3-ethylureidooxy)acetic acid (Compound VI-13) 32 mg (0.18 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)-3-phenylpropanamide (Compound IV-27) 65 mg (0.15 mmol) to obtain the title compound 24 mg (27%).

reactant | 2-(3-ethylureidooxy)acetic acid | 0.18 mmol, 32 mg | C(C)NC(NOCC(=O)O)=O | C5H10N2O4
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)-3-phenylpropanamide | 0.15 mmol, 65 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)CC1=CC=CC=C1 | C27H34N2O3
product | 2-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxo-3-phenylpropan-2-ylamino)-2-oxoethyl)-N-ethyl-2-methylhydrazinecarboxamide | 24 mg, 27% | C(C)OC([C@H](C)N(C([C@H](CC1=CC=CC=C1)NC(CN(NC(=O)NCC)C)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C33H45N5O5
